US05750531
Step 2: 5,6-Dimethyl-2-(2-methyl-4-fluorophenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.5 ml, 4.6 mmol) was added to a mixture solution of 5,6-dimethyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-2-chloropyrimidine(0.68 g, 2.3 mmol) and dimethylformamide(5 ml), 0.12 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 4.6 mmol, 0.5 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 5,6-dimethyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-2-chloropyrimidine | 2.3 mmol, 0.68 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=C(CC1)C=CS2)C | C14H16ClN3S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethyl-2-(2-methyl-4-fluorophenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.12 g, Yield: 12.4% | Cl.CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)C)N1C(C2=C(CC1)C=CS2)C | InChI=1S/C21H23FN4S.ClH/c1-12-11-17(22)5-6-18(12)24-21-23-14(3)13(2)20(25-21)26-9-7-16-8-10-27-19(16)15(26)4;/h5-6,8,10-11,15H,7,9H2,1-4H3,(H,23,24,25);1H
